US06964974B2
In analogy to example 1.2a and 1.3, reaction of 4-Hydroxy-piperidine-1-carboxylic-acid tert-butyl ester and 1,6-dibromohexane followed by treatment with 4N HCl yielded 4-(6-Bromo-hexyloxy)-piperidine hydrochloride, MS: 264 (MH+, 1Br).

reactant | 4-Hydroxy-piperidine-1-carboxylic-acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
reactant | HCl | 4N | Cl | ClH
product | 4-(6-Bromo-hexyloxy)-piperidine hydrochloride | Cl.BrCCCCCCOC1CCNCC1 | InChI=1S/C11H22BrNO.ClH/c12-7-3-1-2-4-10-14-11-5-8-13-9-6-11;/h11,13H,1-10H2;1H
